US08012956B2
A mixture of 3-mercapto-2-methylbenzoic acid (180 mg, 1.05 mmol), cesium carbonate (690 mg, 2.1 mmol) and iodomethane (132 L1, 2.10 mmol) in dimethylformamide (3 mL) was stirred at room temperature for 2 hours. The mixture was diluted with ethyl acetate then washed with 5% aqueous lithium chloride, 1N aqueous sodium hydroxide, and brine then dried over anhydrous sodium sulfate. Filtration and concentration afforded 138 mg, 0.62 mmol (58%) of methyl 2-methyl-3-(methylthio)benzoate. 1H NMR (400 MHz, CDCl3): 7.58 (d, 1H), 7.41 (d, 1H), 7.21-7.16 (m, 1H), 4.09 (s, 3H), 2.83 (s, 3H), 2.58 (s, 3H). MS (EI) for C10H12SO2: 197 (MH+).

reactant | 3-mercapto-2-methylbenzoic acid | 1.05 mmol, 180 mg | SC=1C(=C(C(=O)O)C=CC1)C | C8H8O2S
reactant | cesium carbonate | 2.1 mmol, 690 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 2.10 mmol | IC | CH3I
reactant | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-methyl-3-(methylthio)benzoate | 0.62 mmol, 138 mg, 58% | CC1=C(C(=O)OC)C=CC=C1SC | C10H12O2S
